US06310217B1
A. Ethyl dodecanoyl-3, 5-dimethylpyrrole-2-carboxylate
1.46 g (11 mmol) of AlCl3 were added to a solution of 1.67 g (10 mmol) of ethyl 3,5-dimethylpyrrole-2-carboxylate a 2.63 g (12 mmol) of dodecanoyl chloride in 30 ml of absol. Dichloromethane and then stirred for 24 h. Addition of water and dilute HCl is followed by extraction twice with CH2Cl2. The organic phases are washed with dilute NaOH, dried over Na2SO4 and concentrated. The product is recrystallized from isopropanol.

reactant | AlCl3 | 11 mmol, 1.46 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | ethyl 3,5-dimethylpyrrole-2-carboxylate | 10 mmol, 1.67 g | CC1=C(NC(=C1)C)C(=O)OCC | C9H13NO2
reactant | dodecanoyl chloride | 12 mmol, 2.63 g | C(CCCCCCCCCCC)(=O)Cl | C12H23ClO
reactant | HCl | Cl | ClH
solvent | water | O | H2O
solvent | Dichloromethane | ClCCl | CH2Cl2
product | Ethyl dodecanoyl-3, 5-dimethylpyrrole-2-carboxylate | C(CCCCCCCCCCC)(=O)C=1C(=C(NC1C)C(=O)OCC)C | C21H35NO3
